US09108926B2
N-{3-[(Propan-2-ylsulfonyl)methyl]phenyl}acetamide
A suspension of crude 1-nitro-3-[(propan-2-ylsulfonyl)methyl]benzene (5.0 g) in acetic acid (58 mL) was treated with iron powder (4.7 g), heated for 22 hours at 110° C. bath temperature and cooled to room temperature. Then water (250 mL) and DCM (250 mL) were added, stirred, filtered, dried with sodium sulfate, filtered and concentrated. An analytical sample (200 mg) of the crude title compound (5.6 g) was recrystallized from diethyl ether/ethanol (121 mg). Lit.: [Grohmann and Hathaway, Molbank 2006, M502].

reactant | 1-nitro-3-[(propan-2-ylsulfonyl)methyl]benzene | 5.0 g | [N+](=O)([O-])C1=CC(=CC=C1)CS(=O)(=O)C(C)C | C10H13NO4S
reactant | water | 250 mL | O | H2O
reactant | DCM | 250 mL | C(Cl)Cl | CH2Cl2
reactant | acetic acid | 58 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 4.7 g | [Fe] | Fe
product | N-{3-[(Propan-2-ylsulfonyl)methyl]phenyl}acetamide | CC(C)S(=O)(=O)CC=1C=C(C=CC1)NC(C)=O | C12H17NO3S
